US08975254B2
N-(2-(3-(3,4-dicyanophenyl)-1H-pyrazol-1-yl)ethyl)-3-(pyridin-3-yl)-1H-pyrazole-5-carboxamide
The title compound was prepared from 4-(1-(2-aminoethyl)-1H-pyrazol-3-yl)-phthalonitrile (50 mg) and 3-(pyridin-3-yl)-1H-pyrazole-5-carboxylic acid (42 mg) using the method of Example 34(d). Yield 39 mg. 1H-NMR (400 MHz; d6-DMSO): δ 3.73 (q, 2H), 4.40 (t, 2H), 7.02 (d, 1H), 7.21 (s, 1H), 7.49 (m, 1H), 7.88 (s, 1H), 8.11-8.16 (m, 2H), 8.30 (dd, 1H), 8.40-8.58 (m, 1H), 8.48 (d, 1H), 8.56 (d, 1H), 8.99 (s, 1H), 13.78 (br s, 1H).

reactant | 4-(1-(2-aminoethyl)-1H-pyrazol-3-yl)-phthalonitrile | 50 mg | NCCN1N=C(C=C1)C=1C=C(C(C#N)=CC1)C#N | C13H11N5
reactant | 3-(pyridin-3-yl)-1H-pyrazole-5-carboxylic acid | 42 mg | N1=CC(=CC=C1)C1=NNC(=C1)C(=O)O | C9H7N3O2
product | N-(2-(3-(3,4-dicyanophenyl)-1H-pyrazol-1-yl)ethyl)-3-(pyridin-3-yl)-1H-pyrazole-5-carboxamide | C(#N)C=1C=C(C=CC1C#N)C1=NN(C=C1)CCNC(=O)C1=CC(=NN1)C=1C=NC=CC1 | C22H16N8O
